US06921763B2
A suspension of 1-(3-bromopropyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.500 g, 1.31 mmol) in dimethylformamide (10 mL) was treated with imidazole (0.107 g, 1.572 mmol) and triethylamine (0.133 g, 1.31 mmol). The reaction mixture was stirred at 70° C. for 25.5 h. Solvent was removed under reduced pressure. Dichloromethane (15 mL) and 1 N hydrochloric acid (20 mL) were added. The layers were partitioned and the aqueous layer was washed with dichloromethane (100 mL). The aqueous layer was neutralized to pH 14 and then extracted with dichloromethane (250 mL). The organic layer was dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using 10% methanol in dichloromethane as the eluent. The column afforded 0.086 g (18%) of pure 1-[3-(1H-1-imidazolyl)propyl]-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine. 1H NMR (DMSO-d6, 400 MHz) δ 8.211 (s, 1H), 7.896 (s, 1H), 7.264 (s, 1H), 6.96 (s, 1H), 4.32-4.227 (m, 2H), 4.011-3.977 (m, 2H), 2.329-2.215 (m, 2H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) Rt 0.46 min (100%), MH+ 370.0.

reactant | 1-(3-bromopropyl)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.31 mmol, 0.500 g | BrCCCN1N=C(C=2C1=NC=NC2N)I | C8H9BrIN5
reactant | imidazole | 1.572 mmol, 0.107 g | N1C=NC=C1 | C3H4N2
reactant | triethylamine | 1.31 mmol, 0.133 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[3-(1H-1-imidazolyl)propyl]-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.086 g, 18% | N1(C=NC=C1)CCCN1N=C(C=2C1=NC=NC2N)I | C11H12IN7
